US05591762
b) 4'-[(2-Ethoxy-4-methyl-6-(1-methyl-benzimidazol-2-yl)-benzimidazol-1-yl)-methyl]-2-(1H-tetrazol-5-yl)-biphenyl
A mixture of 830 mg (1.06 mMol) of 4'-[(2-ethoxy-4-methyl-6-(1-methyl-benzimidazol-2-yl)-benzimidazol-1-yl)-methyl]-2-(2-triphenylmethyl-tetrazol-5-yl)-biphenyl, 2.5 ml of 1N sodium hydroxide solution and 20 ml of ethanol is stirred for 2 hours at 80° C. The solution is then evaporated down, the residue is mixed with about 30 ml of water and made slightly acidic with glacial acetic acid. It is then extracted three times with about 20 ml of methylene chloride, the combined organic extracts are washed with 20 ml of water and concentrated by evaporation. The crude product thus obtained is purified by column chromatography (50 g silica gel; methylene chloride/ethanol=97:3).

reactant | 4'-[(2-ethoxy-4-methyl-6-(1-methyl-benzimidazol-2-yl)-benzimidazol-1-yl)-methyl]-2-(2-triphenylmethyl-tetrazol-5-yl)-biphenyl | 1.06 mMol, 830 mg | C(C)OC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=C(C=C2C)C2=NC1=C(N2C)C=CC=C1 | C51H42N8O
reactant | sodium hydroxide | 1N, 2.5 ml | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4'-[(2-Ethoxy-4-methyl-6-(1-methyl-benzimidazol-2-yl)-benzimidazol-1-yl)-methyl]-2-(1H-tetrazol-5-yl)-biphenyl | C(C)OC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C=C(C=C2C)C2=NC1=C(N2C)C=CC=C1 | C32H28N8O
